US05919793
A mixture of methyl 4-allyloxybenzoate (1.92 g), sodium cyanide (50 mg) and 2-methoxyethanol (20 ml) was heated at reflux for 24 hours. The mixture was evaporated to give an oil which was partitioned between dichloromethane and water. The organic phase was separated, washed with brine, dried (MgSO4) and evaporated. The residue was purified by flash column chromatography on silica gel using a 9:1 (v/v) mixture of pentane/ethyl acetate as eluent to give 2-methoxyethyl 4-allyloxybenzoate (1.7 g) as an oil; NMR(CDCl3): 3.44(3H,s), 3.72(2H,t), 4.44(2H,t), 4.55-4.64(2H,m), 5.27-5.48(2H,m), 5.96-6.14(1H,m), 6.93(2H,d) and 8.01(2H,d); m/z237(M+H).

reactant | methyl 4-allyloxybenzoate | 1.92 g | C(C=C)OC1=CC=C(C(=O)OC)C=C1 | C11H12O3
reactant | sodium cyanide | 50 mg | [C-]#N.[Na+]
reactant | 2-methoxyethanol | 20 ml | COCCO | C3H8O2
product | 2-methoxyethyl 4-allyloxybenzoate | 1.7 g | C(C=C)OC1=CC=C(C(=O)OCCOC)C=C1 | C13H16O4
